US04806538
To a solution of (3R,6R)-3-(3-aminopropyl)-6-(1-methylindol-3-ylmethyl)piperazine-2,5-dione (100 mg) in dry N,N-dimethylformamide (3 ml) was added benzoyl chloride (60 mg). The mixture was stirred at ambient temperature for 2 hours, diluted with water (15 ml) and allowed to stand overnight. The precipitated mass was collected, washed with water, and dried in vacuo to give (3R,6R)-3-(3-benzamidopropyl)-6-(1-methylindol-3-ylmethyl)-piperazine-2,5-dione (45 mg).

reactant | (3R,6R)-3-(3-aminopropyl)-6-(1-methylindol-3-ylmethyl)piperazine-2,5-dione | 100 mg | NCCC[C@@H]1C(N[C@@H](C(N1)=O)CC1=CN(C2=CC=CC=C12)C)=O | C17H22N4O2
reactant | benzoyl chloride | 60 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | (3R,6R)-3-(3-benzamidopropyl)-6-(1-methylindol-3-ylmethyl)-piperazine-2,5-dione | 45 mg | C(C1=CC=CC=C1)(=O)NCCC[C@@H]1C(N[C@@H](C(N1)=O)CC1=CN(C2=CC=CC=C12)C)=O | C24H26N4O3
